Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left calf pain, swelling
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ with type 2 DM, recent pregnancy and 
recurrent pregnancy loss, and obesity who presented with a 
1-week history of progressive left calf pain and swelling. Of 
note, she had a C-section on ___. She had left calf pain 
at that time, which persisted for three weeks but resolved 
spontaneously. She did not note any swelling at the time. Since 
___ she reported left calf cramping and swelling, 
which progressively spread to the left foot over the course of 
the week. She had associated difficulty with ambulating, and was 
taking motrin intermittently with good pain relief. She decided 
to come to the ED on ___ when she couldn't put her 
shoe on because of pain.

On further questioning, she noted that she had been short of 
breath since delivery, manifesting as fatigue and decreased 
exercise tolerance with climbing to and from the basement, and 
while doing chores. She also reported some discomfort associated 
with the shortness of breath, but denied lightheadedness, 
dizziness, and syncope.

 
Past Medical History:
- Type 2 DM, diagnosed during pregnancy, on insulin
- Morbid obesity
- 5 miscarriages; all early, first trimester losses; none w/ D&C
- PPROM at 20 weeks, stillbirth, retained products of
conception s/p D&C

 
Social History:
___
Family History:
Patient is ___ in ___. On patient's paternal side, 
diabetes runs in the family; on her maternal side, diabetes and 
hypertension run in the family. No known history of VTE.
 
Physical Exam:
PHYSICAL EXAM AT ADMISSION:

VS:  97.6 PO 145 / 98 L Sitting 80 20 98 Ra 
GENERAL: Obese but otherwise well appearing young woman in NAD, 
pleasant and conversational
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, unable to appreciate JVD ___ habitus
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly, well healed C-section 
scar  
EXTREMITIES: L lower leg with mild swelling compared to R, no 
pain with calf squeeze
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

PHYSICAL EXAM AT DISCHARGE:
Vitals: T 98.1, BP 117/76, HR 78, RR 18, O2 100 RA  
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, no LAD, unable to assess JVP ___ body habitus 
Lungs: CTAB, no wheezes, rales, or ronchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis. no 
___ edema
Neuro: CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
Labs upon admission (___):

GLUCOSE-336* UREA N-9 CREAT-0.7 SODIUM-138 POTASSIUM-4.5 
CHLORIDE-103 TOTAL CO2-23 ANION GAP-12
WBC-7.9 RBC-4.32 HGB-11.3 HCT-35.3 MCV-82 MCH-26.2 MCHC-32.0 
RDW-14.0 RDWSD-40.7
PLT COUNT-268
D-DIMER-4118*
cTropnT-<0.01 proBNP-255*

Labs upon discharge:

___ 06:55AM BLOOD WBC-6.1 RBC-4.44 Hgb-11.4 Hct-36.5 MCV-82 
MCH-25.7* MCHC-31.2* RDW-14.1 RDWSD-41.5 Plt ___
___ 06:55AM BLOOD ___ PTT-29.4 ___
___ 06:55AM BLOOD Glucose-248* UreaN-12 Creat-0.7 Na-139 
K-4.7 Cl-105 HCO3-21* AnGap-13

Other: 

___ BLOOD %HbA1c-10.6* eAG-258*
___ BLOOD ALT-12 AST-14 AlkPhos-137* TotBili-0.2
___ BLOOD Glucose-260* 
___ BLOOD ___ PTT-28.7 ___
___ BLOOD ___ PTT-29.1 ___

Micro:
None.

Imaging:

- CTA Chest:
Extensive bilateral pulmonary emboli, involving the right main 
pulmonary artery and segmental branches on the left. No evidence 
of right heart strain or pulmonary infarction. 

- Bilateral Lower Extremity Ultrasound: 
Deep venous thrombosis within the left posterior tibial veins, 
and possibly within one of the peroneal veins. No DVT in the 
right lower extremity veins. 

- Cardiac echo:
The left atrial volume index is normal. Normal left ventricular 
wall thickness, cavity size, and regional/global systolic 
function (biplane LVEF = 62 %). Transmitral and tissue Doppler 
imaging suggests normal diastolic function, and a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is high normal. 
There is no pericardial effusion. 

 IMPRESSION: Normal study. Preserved regional and global 
biventricular systolic function. No valvular pathology or 
pathologic flow identified. High normal estimated pulmoanry 
artery systolic pressure. 

 CLINICAL IMPLICATIONS: 
 Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  
 
Brief Hospital Course:
Ms. ___ is a ___ with morbid obesity, recurrent pregnancy 
loss, recent c/section ___, not breast feeding), who 
presented to ___ with leg swelling and dyspnea found to have 
LLE DVT and extensive PE involving the right main pulmonary 
artery and segmental branches on the left. 

#Submassive Pulmonary emboli
#DVT
Patient presented with left calf pain and swelling as well as 
worsening shortness of breath. She had a C-section on ___ 
and had also received Depo-Provera shortly after her child's 
birth. She notably also has a history of four spontaneous 
abortions. Her work up in the ED revealed LLE DVT (left 
posterior tibial veins, and possibly within one of the peroneal 
veins) and CTA revealed extensive bilateral pulmonary emboli, 
involving the R main pulmonary artery and segmental branches on 
the left without evidence of right heart strain. Vascular 
medicine was consulted and recommended initiation of 
anticoagulation with lovenox and warfarin. No need for 
thrombolysis. She underwent cardiac echo that showed normal LV 
wall thickness, cavity size and regional/global systolic 
function. She was continued on lovenox and warfarin in the 
hospital. INR upon discharge was 1.2. Discharge dose of warfarin 
is 7.5 mg daily. 

#Type ___iagnosed with Type 2 DM in ___ and treated with NPH and 
Humalog during pregnancy. Upon admission, she was only using 
three units of Humalog with meals. Both her fasting and mealtime 
sugars were elevated. We spoke with her outpatient 
endocrinologist and increased her Humalog to 5 units with meals 
and resumed her previous NPH dose of 15 units with breakfast and 
dinner. Blood sugars improved, although did continue to be 
slightly elevated. She has follow up with ___ scheduled. 

**TRANSITIONAL ISSUES**

MEDICATION CHANGES:

-Enoxaparin sodium 140 mg subQ BID
-Warfarin 7.5 mg PO daily
-Humalog 5 units with meals; NPH 15 units with breakfast, 15 
units with dinner (was previously on Humalog with meals)

-Patient should no longer receive medroxyprogesterone given its 
association with VTE

[] Patient discharged on warfarin with lovenox as bridge. INR 
goal 2 to 3.
[] Patient told to have her INR checked on ___ at ___ 
office, where primary care MD ___ adjust warfarin accordingly
[] Patient scheduled for follow up with primary care and 
endocrinology upon discharge
[] Patient should NO LONGER receive medroxyprogesterone acetate 
for birth control given VTE. Considerations include progesterone 
only pills and IUD or nexplanon.
[] Please consider outpatient hematology referral given history 
of multiple miscarriages and recent DVT/PE. Pt should undergo 
hypercoag work up.
 
Medications on Admission:
1. Medroxyprogesterone Acetate 150 mg IM MONTHLY 
2. Humalog 3 Units Breakfast, 3 Units Lunch, 3 Units Dinner

 
Discharge Medications:
1.  Enoxaparin Sodium 140 mg SC Q12H 
RX *enoxaparin 150 mg/mL 140 mg subq twice per day Disp #*20 
Syringe Refills:*0 
2.  Warfarin 7.5 mg PO DAILY16 
RX *warfarin 2.5 mg 3 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0 
3.  Humalog 5 Units Breakfast
Humalog 5 Units Lunch
Humalog 5 Units Dinner
NPH 15 Units Breakfast
NPH 15 Units Dinner
RX *insulin lispro [Humalog U-100 Insulin] 100 unit/mL 5 units 
subq with meals Disp #*30 Vial Refills:*0
RX *insulin NPH isoph U-100 human [Humulin N NPH U-100 Insulin] 
100 unit/mL 15 units subq twice daily Disp #*60 Vial Refills:*0 
4.Outpatient Lab Work
Please check INR on ___
Results to be followed by: ___., ___ 
Phone: ___, Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Submassive pulmonary emboli
Deep venous thrombosis, Left lower extremity
Type 2 Diabetes Mellitus

Secondary diagnoses:

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

What brought you into the hospital?
-You came to the hospital because of leg swelling and difficulty 
breathing.

What happened while you were in the hospital?
-You were found to have clots in your lungs and your leg.
-You were started on blood thinning medications to treat the 
clots.
-Because your blood sugar was high, we increased your insulin.

What should you do when you leave the hospital?
-We started you on new medications. They are lovenox (also 
called enoxaparin) and warfarin. These are the blood-thinning 
medications used to treat your clots and to prevent new ones 
from forming. 
-You will need to follow up with your primary care physician to 
make sure your blood is thinned appropriately and to adjust the 
levels of these drugs as needed. Also make sure to discuss 
alternate birth control medications with your PCP or ___. The 
medication you were on previously for birth control (depo 
injections) increases your risk of having a clot and should no 
longer be taken.
-Make sure you see your diabetes doctor to help manage your 
blood sugars and to adjust your insulin as needed.
-Please go to your primary care office on ___ to have your 
INR checked (blood test to see how that warfarin is working)

It was a pleasure taking care of you.

-Your ___ Team

CHANGES in your medications:

- 15 units of NPH twice per day (with breakfast and dinner)
- 5 units of Humalog with breakfast, lunch, and dinner
- 7.5 mg of warfarin daily
- 140 mg of lovenox subq twice per day

- You should no longer receive the depo shots for your birth 
control

 
Followup Instructions:
___